US07259183B2
Preparation of 4-(1-methoxycyclobutyl)-benzaldehyde
The title compound was synthesized in analogy to 4-cyclopropyl benzaldehyde (described in example S53) using 1-bromo-4-(1-methoxycyclobutyl)-benzene (140 mg, 0.58 mmol), n-BuLi (363 μl, 1.6M solution in hexane, 0.58 mmol) and DMF (90 μl, 1.16 mmol). The isolated residue was purified by flash column chromatography (1:9 ether:pentane) to give 4-(1-methoxycyclobutyl)-benzaldehyde (76 mg, 69%) as a colorless oil. 1H NMR (CDCl3, 300 MHz): δ 10.03 (s, 1H), 7.91 (d, J=8.5 Hz, 2H), 7.61 (d, J=8.5 Hz, 2H), 2.96 (s, 3H), 2.45-2.39 (m, 4H), 1.99 (m, 1H), 1.73 (m, 1H).

reactant | 4-cyclopropyl benzaldehyde | C1(CC1)C1=CC=C(C=O)C=C1 | C10H10O
reactant | 1-bromo-4-(1-methoxycyclobutyl)-benzene | 0.58 mmol, 140 mg | BrC1=CC=C(C=C1)C1(CCC1)OC | C11H13BrO
reactant | n-BuLi | 0.58 mmol, 1.6M, 363 μl | [Li]CCCC
reactant | DMF | 1.16 mmol, 90 μl | CN(C)C=O | C3H7NO
product | 4-(1-methoxycyclobutyl)-benzaldehyde | 76 mg, 69% | COC1(CCC1)C1=CC=C(C=O)C=C1 | C12H14O2
